.title exp alias mixed case source smoke
* Validates EXP source parsing with alias arguments and mixed-case keyword spelling.
* Variant: compact mixed-case alias form using low/high/delay1/tau_rise/delay2/tau_fall.

V1 in 0 eXp(low=0 high=1 delay1=0 tau_rise=1n delay2=1n tau_fall=2n)
R1 in out 1k
C1 out 0 1p
.tran 1p 10p
.end
