.title exp keyword mixed-case comma source smoke
V1 in 0 eXp(v1=0, v2=1m, td1=1p, tau1=0.5p, td2=4p, tau2=0.5p)
R1 in out 1
C1 out 0 1p
.tran 1p 6p
.end
