.title include-chain-jj-subckt-smoke
.include "include_chain_jj_defs.inc"
V1 in 0 PULSE(0,2m,0,1p,1p,2p,8p)
X1 in 0 jj_stage params: stage_r=10
.tran 1p 8p
.end