.title include-jj-subckt-smoke
.include "include_jj_stage_defs.inc"
V1 in 0 PULSE(0,2m,0,1p,1p,2p,8p)
X1 in 0 jj_stage params: rdrive=10
.tran 1p 8p
.end