.title pulse keyword comma source smoke
V1 in 0 PULSE(v1=0, v2=1m, td=1p, tr=0.2p, tf=0.2p, pw=2p, per=4p, ncycles=2)
R1 in out 10
C1 out 0 1p
.tran 0.5p 10p
.end
