.title pulse keyword mixed case source smoke
V1 in 0 pUlSe(v1=0 v2=1m td=1p tr=0.2p tf=0.2p pw=2p per=4p ncycles=2)
R1 in out 1
C1 out 0 1p
.tran 1p 10p
.end
