.title pulse-keyword-source-smoke
V1 in 0 PULSE(v1 = 0 v2 = 1m td = 1p tr = 0.2p tf = 0.2p pw = 2p per = 4p ncycles = 2)
R1 in out 10
C1 out 0 1p
.tran 0.5p 10p
.end
