.title sin alias mixed case source smoke
* Validates SIN source parsing with alias arguments and mixed-case keyword spelling.
* Variant: compact mixed-case alias form using offset/amplitude/f/td/damping/phi.

V1 in 0 sIn(offset=0 amplitude=1m f=100g td=0 damping=300g phi=90)
R1 in out 1k
C1 out 0 1p
.tran 1p 5p
.end
