.title sin keyword mixed-case comma source smoke
V1 in 0 sIn(vo=0, va=1m, freq=100g, td=0, theta=300g, phi=90)
R1 in out 1
C1 out 0 1p
.tran 1p 5p
.end
