.title sin phase alias keyword source smoke
* Validates SIN source parsing with phase= alias in keyword form without comma separators.
* Variant: keyword form using phase= alias instead of phi=.

V1 in 0 SIN(vo=0 va=1m freq=100g td=0 theta=300g phase=90)
R1 in out 1k
C1 out 0 1p
.tran 1p 5p
.end
